* Simple RC Low Pass Filter
V1 in 0 PULSE(0 5 0 1n 1n 10u 20u)
R1 in out 1k
C1 out 0 10n

.tran 10n 50u

.control
run
* Set output format to plain numbers (optional, disables headers)
set ascii_rawfile
* Write time, V(in), and V(out) into output.txt
wrdata output.txt v(in) v(out)
.endc

.end

